US04225609
Preparation of 4-{3-[3-[3-(1-Hydroxycyclohexyl)propyl]-4-oxo-2-thiazolidinyl]propyl}benzoic Acid
4-{3-[3-[3-(1-Hydroxycyclohexyl)-2-propynyl]-4-oxo-2-thiazolidinyl]propyl}benzoic Acid (4.0 g., 0.01 mole) is dissolved in ethyl acetate (45 ml.) and hydrogenated at 25° C. and one atmosphere pressure over 1.0 g. of a 5% palladium on charcoal catalyst. When 0.01 mole of hydrogen is absorbed (2 hours), uptake of hydrogen becomes very slow. An additional 1.5 g. of catalyst is added and hydrogenation continued for 70 hours until 0.02 mole of hydrogen has been absorbed. The catalyst is removed by filtration and the solvent evaporated. The residual oil is chromatographed on silica gel with elution by 2% methanol in chloroform. The chromatographed product crystalizes when triturated with ether. There is obtained 1.2 g. of the title product, m.p. 118°-121° C.

reactant | 4-{3-[3-[3-(1-Hydroxycyclohexyl)-2-propynyl]-4-oxo-2-thiazolidinyl]propyl}benzoic Acid | 0.01 mole, 4.0 g | OC1(CCCCC1)C#CCN1C(SCC1=O)CCCC1=CC=C(C(=O)O)C=C1 | C22H27NO4S
reactant | hydrogen | 0.01 mole | [H][H] | H2
reactant | hydrogen | 0.02 mole | [H][H] | H2
solvent | ethyl acetate | 45 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on charcoal | [Pd] | Pd
product | 4-{3-[3-[3-(1-Hydroxycyclohexyl)propyl]-4-oxo-2-thiazolidinyl]propyl}benzoic Acid | OC1(CCCCC1)CCCN1C(SCC1=O)CCCC1=CC=C(C(=O)O)C=C1 | C22H31NO4S
